US09388153B2
Sodium borohyride (19 mg, 0.5 mmol) was added to a solution of 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-one (55 mg, 0.24 mmol) and methanol (12 mL) in a 100 mL round bottom flask at 0° C. After stirring for 1 hour, the resulting mixture was warmed to room temperature. The reaction was quenched with saturated aqueous ammonium chloride (100 mL) and extracted with ethyl acetate (100 mL). The organic extract was dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (4 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 55 mg (99%) of 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-ol.

reactant | Sodium | [Na] | Na
reactant | 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-one | 0.24 mmol, 55 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)=O | C15H11FO
solvent | methanol | 12 mL | CO | CH4O
product | 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-ol | 55 mg, 99% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)O | C15H13FO
